resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 1.017151
R2 0 n2 0.998966
R3 0 n4 0.997556
R4 n1 n3 0.99717
R5 n1 n5 0.982128
R6 n2 n3 1.013489
R7 n2 n6 1.011733
R8 n3 n7 0.057955
R9 n4 n5 23.73343
R10 n4 n6 0.998316
R11 n5 n7 1.002901
R12 n6 n7 0.982604
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
