resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.981541
R2 0 n2 35.955213
R3 0 n4 1.007015
R4 n1 n3 1.001761
R5 n1 n5 1.014736
R6 n2 n3 0.989175
R7 n2 n6 1.012006
R8 n3 n7 0.987032
R9 n4 n5 1.012067
R10 n4 n6 0.997518
R11 n5 n7 0.138151
R12 n6 n7 1.018073
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
