resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.997823
R2 0 n2 0.982954
R3 0 n4 0.989123
R4 n1 n3 1.008172
R5 n1 n5 0.041459
R6 n2 n3 1.010399
R7 n2 n6 1.007213
R8 n3 n7 0.991885
R9 n4 n5 1.013448
R10 n4 n6 1.015008
R11 n5 n7 38.371678
R12 n6 n7 0.997814
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
