resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.988637
R2 0 n2 1.004067
R3 0 n4 0.095089
R4 n1 n3 1.003897
R5 n1 n5 1.012519
R6 n2 n3 1.009695
R7 n2 n6 0.990418
R8 n3 n7 0.985799
R9 n4 n5 0.989067
R10 n4 n6 6.876762
R11 n5 n7 1.010135
R12 n6 n7 0.989525
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
