resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 1.018587
R2 0 n2 0.990938
R3 0 n4 0.981444
R4 n1 n3 1.000597
R5 n1 n5 1.014534
R6 n2 n3 1.017134
R7 n2 n6 8.127971
R8 n3 n7 0.996005
R9 n4 n5 1.006302
R10 n4 n6 1.004609
R11 n5 n7 0.999808
R12 n6 n7 0.134042
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
