resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.998848
R2 0 n2 5.046758
R3 0 n4 0.989673
R4 n1 n3 1.018904
R5 n1 n5 0.995262
R6 n2 n3 0.053606
R7 n2 n6 1.018619
R8 n3 n7 0.999823
R9 n4 n5 1.002409
R10 n4 n6 0.988816
R11 n5 n7 1.019791
R12 n6 n7 1.001362
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
