resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 1.011858
R2 0 n2 0.981532
R3 0 n4 1.006674
R4 n1 n3 0.989098
R5 n1 n5 1.005201
R6 n2 n3 1.000117
R7 n2 n6 0.98171
R8 n3 n7 0.043715
R9 n4 n5 1.000053
R10 n4 n6 0.98844
R11 n5 n7 38.454863
R12 n6 n7 1.018145
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
